US05312826
1.8 g of 4-benzyloxycarbonyl-5-{2-[N-((1S)-1-benzyloxycarbonyl-3-phenylpropyl)-(L)-phenylalanyl]aminoethyl}oxazole was subjected to catalytic hydrogenolysis in 50 ml of dimethylformamide in the presence of 100 mg of palladium-black at 3 atmospheric pressure for 5 hours. After removal of the catalyst by filtration, the solvent was removed. The crystals obtained were recrystallized from methanol to obtain 1.1 g of 4-carboxy-5-{2-[N-((1S)-1-carboxy-3-phenylpropyl)-(L)-phenylalanyl]aminoethyl}oxazole.

reactant | 4-benzyloxycarbonyl-5-{2-[N-((1S)-1-benzyloxycarbonyl-3-phenylpropyl)-(L)-phenylalanyl]aminoethyl}oxazole | 1.8 g | C(C1=CC=CC=C1)OC(=O)C=1N=COC1CCNC([C@@H](N[C@@H](CCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C39H39N3O6
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | palladium-black | 100 mg | [Pd] | Pd
product | 4-carboxy-5-{2-[N-((1S)-1-carboxy-3-phenylpropyl)-(L)-phenylalanyl]aminoethyl}oxazole | 1.1 g | C(=O)(O)C=1N=COC1CCNC([C@@H](N[C@@H](CCC1=CC=CC=C1)C(=O)O)CC1=CC=CC=C1)=O | C25H27N3O6
